US08110585B2
trans-2-(2-methyl-2H-indazol-4-yl)cyclopropanecarbaldehyde
Trans-[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanol (500 mg, 2.47 mmol), 4 Å molecular sieves (200 mg), 4-methylmorpholine N-oxide (724 mg, 6.18 mmol) and tetra-n-propylammonium perruthenate(VII) (43.6 mg, 0.124 mmol) were dissolved in acetonitrile (25 mL), and the mixture was stirred at room temperature for 2 hr. 2-Propanol was added, and the mixture was stirred for 30 min. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate) to give the title compound (382 mg, yield 77%).

reactant | Trans-[2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanol | 2.47 mmol, 500 mg | CN1N=C2C=CC=C(C2=C1)[C@H]1[C@@H](C1)CO | C12H14N2O
reactant | 4-methylmorpholine N-oxide | 6.18 mmol, 724 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 2-Propanol | CC(C)O | C3H8O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | trans-2-(2-methyl-2H-indazol-4-yl)cyclopropanecarbaldehyde | 382 mg, yield 77% | CN1N=C2C=CC=C(C2=C1)[C@H]1[C@@H](C1)C=O | C12H12N2O
